US04281019
To 15 g. 4-(allylamino)phenylacetic acid in 200 ml. warm chloroform is added a solution of 12 g. sodium carbonate in 150 ml. water. To the vigorously stirred solution is added 10 g. carbobenzyloxy chloride. After 2 hours stirring at 40° C., the layers are separated, washed three times with 1N hydrochloric acid, dried, and evaorated to an oil. The oil is dissolved in 300 ml. toluene, treated with 15 ml. thionyl chloride and the solution is refluxed for 5 hours. The solvents are evaporated and the residue is dissolved three times in toluene, evaporating each time ultimately to yield 4-(N-carbobenzyloxy-allylamino)phenylacetyl chloride as a viscous, orange oil.

reactant | 4-(allylamino)phenylacetic acid | C(C=C)NC1=CC=C(C=C1)CC(=O)O | C11H13NO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbobenzyloxy chloride | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | water | O | H2O
product | 4-(N-carbobenzyloxy-allylamino)phenylacetyl chloride | C(=O)(OCC1=CC=CC=C1)N(C1=CC=C(C=C1)CC(=O)Cl)CC=C | C19H18ClNO3
